US03971819
B. 3-amino-4-(2-methoxyethylamino)- 5-sulphamyl-benzoic acid
4-(2-Methoxyethylamino)-3-nitro-5-sulphamyl-benzoic acid (3.2 g) was dissolved in 1N sodium hydroxide (10 ml) and hydrogenated after addition of moist Raney-Nickel (1 g). When the hydrogen uptake had become negligible, the catalyst was removed by filtration, and the resulting 3-amino-4-(2-methoxyethylamino)-5-sulphamyl-benzoic acid was precipitated from the filtrate by addition of 4N hydrochloric acid until pH 3. After recrystallization from water, the melting point was 209°-211°C.

reactant | 4-(2-Methoxyethylamino)-3-nitro-5-sulphamyl-benzoic acid | 3.2 g | COCCNC1=C(C=C(C(=O)O)C=C1S(N)(=O)=O)[N+](=O)[O-] | C10H13N3O7S
reactant | hydrogen | [H][H] | H2
solvent | sodium hydroxide | 1N, 10 ml | [OH-].[Na+]
catalyst | Raney-Nickel | 1 g | [Ni] | Ni
product | 3-amino-4-(2-methoxyethylamino)- 5-sulphamyl-benzoic acid | NC=1C=C(C(=O)O)C=C(C1NCCOC)S(N)(=O)=O | C10H15N3O5S
